US07875600B2
3-Methoxymethylpyridine-2-carbonitrile
A stirred solution of 3-bromomethylpyridine-2-carbonitrile (591 mg, 3.0 mmol) in MeOH (10 mL) at 0° C. was treated with NaOMe (324 mg, 6.0 mmol), warmed to room temperature, stirred for 2 h, concentrated in vacuo and partitioned between EtOAc (50 mL) and water (30 mL). The organic phase was dried (MgSO4), concentrated in vacuo and purified by chromatography [SiO2; hexane:EtOAc (9:1-4:1)] to give the title compound (297 mg, 67%) as a clear oil; NMR δH (400 MHz, CDCl3) 3.51 (3H, s), 4.68 (2H, s), 7.50-7.55 (1H, m), 7.92-7.96 (1H, m) and 8.63 (1H, dd, J 5.0, 1.5 Hz); Rf [isohexane:EtOAc (4:1)]=0.65.

reactant | 3-bromomethylpyridine-2-carbonitrile | 3.0 mmol, 591 mg | BrCC=1C(=NC=CC1)C#N | C7H5BrN2
reactant | NaOMe | 6.0 mmol, 324 mg | C[O-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | 3-Methoxymethylpyridine-2-carbonitrile | 297 mg, 67% | COCC=1C(=NC=CC1)C#N | C8H8N2O
